US08609647B2
(13) Optically-Active Compound of 3-oxo-3-[7-(7H-pyrrolo[2.3-d]pyrimidin-4-yl)-1,7-diazaspiro[4.5]dec-1-yl)propionitrile
4-(1,7-Diazaspiro[4.5]dec-7-yl)-7H-pyrrolo[2,3-d]pyrimidine (30 mg) was mixed with 1-cyanoacetyl-3,5-dimethylpyrazole (38 mg), N,N-diisopropylethylamine (42 μl) and 1,4-dioxane (1 ml), and the mixture was stirred at 110° C. for 75 minutes. The mixture was cooled to room temperature, and then thereto was added saturated aqueous sodium bicarbonate solution. The mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/ethyl acetate=1/2, followed by chloroform/methanol=25/1 to 20/1) to give the titled compound (32 mg).

reactant | 4-(1,7-Diazaspiro[4.5]dec-7-yl)-7H-pyrrolo[2,3-d]pyrimidine | 30 mg | N1CCCC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C14H19N5
reactant | 1-cyanoacetyl-3,5-dimethylpyrazole | 38 mg | CC1=CC(=NN1C(=O)CC#N)C | C8H9N3O
reactant | N,N-diisopropylethylamine | 42 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 3-oxo-3-[7-(7H-pyrrolo[2.3-d]pyrimidin-4-yl)-1,7-diazaspiro[4.5]dec-1-yl)propionitrile | 32 mg | O=C(CC#N)N1CCCC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C17H20N6O
